US05095022
2-[4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)piperidino]ethoxyacetic acid hydrochloride
A mixture of 2.56 g of methyl 2-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidino]ethoxyacetate, 6.6 ml of 2N sodium hydroxide aqueous solution and 25 ml of methanol was refluxed for 1 hr and concentrated. Water was added to the residue, adjusted to pH 2 with 10% hydrochloric acid and extracted with chloroform. The chloroform layer was washed with water, dried and concentrated to give yellowish brown liquid, which was solidified with a mixture of chloroform and ether to give 2.7 g of pale yellow amorphous solid, mp 75°-80° C.

reactant | methyl 2-[4-(5H-dibenzo[a,d]cyclohepten-5-ylidene)piperidino]ethoxyacetate | 2.56 g | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCOCC(=O)OC | C25H27NO3
reactant | sodium hydroxide | 2N, 6.6 ml | [OH-].[Na+]
reactant | methanol | 25 ml | CO | CH4O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ether | CCOCC | C4H10O
product | 2-[4-(5H-Dibenzo[a,d]cyclohepten-5-ylidene)piperidino]ethoxyacetic acid hydrochloride | 2.7 g | Cl.C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)CCOCC(=O)O | InChI=1S/C24H25NO3.ClH/c26-23(27)17-28-16-15-25-13-11-20(12-14-25)24-21-7-3-1-5-18(21)9-10-19-6-2-4-8-22(19)24;/h1-10H,11-17H2,(H,26,27);1H
